US04443462
When in the procedure of Example 13, 4-chloro-1-(4-fluorophenyl)-1-butanone is substituted for 4-chloro-1-phenyl-1-butanone and 4-(1-naphthalenyloxy)piperidine hydrochloride is substituted for 4-(2-naphthalenyloxy)piperidine hydrochloride, 4-[4-(1-naphthalenyloxy)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone hydrochloride is produced. M.P. 220°-222.5° C.

reactant | 4-chloro-1-(4-fluorophenyl)-1-butanone | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 4-chloro-1-phenyl-1-butanone | ClCCCC(=O)C1=CC=CC=C1 | C10H11ClO
reactant | 4-(1-naphthalenyloxy)piperidine hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)OC1CCNCC1
reactant | 4-(2-naphthalenyloxy)piperidine hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)OC1CCNCC1
product | 4-[4-(1-naphthalenyloxy)-1-piperidyl]-1-(4-fluorophenyl)-1-butanone hydrochloride | Cl.C1(=CC=CC2=CC=CC=C12)OC1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)F | InChI=1S/C25H26FNO2.ClH/c26-21-12-10-20(11-13-21)24(28)8-4-16-27-17-14-22(15-18-27)29-25-9-3-6-19-5-1-2-7-23(19)25;/h1-3,5-7,9-13,22H,4,8,14-18H2;1H
